US04044015
Treatment of 1.86 g. of 2-formamidomethylquinoline with 15 ml. of hosphorous oxychloride as in Preparation AIII-a gave imidazo[1,5-a]quinoline, which is used without purification.

reactant | 2-formamidomethylquinoline | C(=O)NCC1=NC2=CC=CC=C2C=C1 | C11H10N2O
reactant | oxychloride | O(Cl)Cl | Cl2O
product | imidazo[1,5-a]quinoline | C1=NC=C2N1C1=CC=CC=C1C=C2 | C11H8N2
